US06248909B1
11,14,17-eicosatrienoic acid (dihomo-α-linolenic acid) [20:3, ω3];
8,11,14,17-eicosatetraenoic acid [20:4, ω3], 5,8,11,14,17-eicosapentaenoic acid [20:5, ω3];

reactant | 8,11,14,17-eicosatetraenoic acid | C(CCCCCCC=CCC=CCC=CCC=CCC)(=O)O | C20H32O2
reactant | 5,8,11,14,17-eicosapentaenoic acid | C(CCCC=CCC=CCC=CCC=CCC=CCC)(=O)O | C20H30O2
product | 11,14,17-eicosatrienoic acid | C(CCCCCCCCCC=CCC=CCC=CCC)(=O)O | C20H34O2
